US04176190
3-Sulphamoyl-4-phenoxy-5-(2,5-dimethyl-1-pyrrolyl)-benzoic acid
A mixture of 3-sulphamoyl-4-phenoxy-5-aminobenzoic acid (1.54 g=5 mmols; P. W. Feit, J. Med. Chem. 14, 432 (1971)), acetonylacetone (0.57 g=5 mmols) and 10 ml of glacial acetic acid is refluxed under N2 for 30 minutes, the red reaction solution is evaporated in vacuo and freed from residues of glacial acetic acid and water by adding benzene and evaporating azeotropically, the residue is dissolved in acetone, the solution is boiled with silica gel and filtered through a fine filter and the solution is concentrated to 50 ml and, after adding 50 ml of ethyl acetate, freed from acetone residues in vacuo, whereupon crystallisation takes place. After the purification procedure has been repeated, beige-coloured crystals with a melting point of 283°-286° (decomposition) result.

reactant | 3-sulphamoyl-4-phenoxy-5-aminobenzoic acid | 5 mmols, 1.54 g | S(N)(=O)(=O)C=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)N | C13H12N2O5S
reactant | acetonylacetone | 5 mmols, 0.57 g | C(C(=O)C)CC(C)=O | C6H10O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-Sulphamoyl-4-phenoxy-5-(2,5-dimethyl-1-pyrrolyl)-benzoic acid | S(N)(=O)(=O)C=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)N1C(=CC=C1C)C | C19H18N2O5S
